US07994185B2
2,5-Difluoro-N-{2-fluoro-5-[5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (120 mg, 0.212 mmol) and 1-(methylsulfonyl)-4-piperidinamine (377 mg, 2.12 mmol) in THF (1 mL) the title compound was obtained as a light yellow solid (89 mg, 0.12 mmol, 59% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.83 (s, 1H), 8.14 (d, J=4.9 Hz, 1H), 7.46-7.73 (m, 3H), 7.34-7.45 (m, 3H), 7.22-7.34 (m, 1H), 5.99-6.51 (m, 1H), 3.95 (dd, J=11.4, 2.0 Hz, 2H), 3.41-3.58 (m, 4H), 3.18-3.33 (m, 1H), 2.69-2.93 (m, 5H), 1.81-2.06 (m, 5H), 1.66-1.81 (m, 2H), 1.42-1.65 (m, 2H). MS (ESI): 709.18 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.212 mmol, 120 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H18ClF3N4O3S2
reactant | 1-(methylsulfonyl)-4-piperidinamine | 2.12 mmol, 377 mg | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2,5-Difluoro-N-{2-fluoro-5-[5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C=C(C=C1)F)S(=O)(=O)NC1=C(C=CC(=C1)C=1N=C(SC1C1=NC(=NC=C1)NC1CCN(CC1)S(=O)(=O)C)C1CCOCC1)F | C30H31F3N6O5S3
